US04614718
The procedure of Example 1 was repeated except that 10.08 g of raffinose was substituted for 3.4 g of sucrose. 6.65 g of raffinose oleate was obtained.

reactant | raffinose | 10.08 g | C([C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)O[C@]3([C@H]([C@@H]([C@H](O3)CO)O)O)CO)O)O)O)O)O)O)O | C18H32O16
reactant | sucrose | 3.4 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
product | raffinose oleate | 6.65 g | C([C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)O[C@]3([C@H]([C@@H]([C@H](O3)CO)O)O)CO)O)O)O)O)O)O)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-] | InChI=1S/C18H32O16.C18H34O2/c19-1-5-8(22)11(25)13(27)16(31-5)30-3-7-9(23)12(26)14(28)17(32-7)34-18(4-21)15(29)10(24)6(2-20)33-18;1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18(19)20/h5-17,19-29H,1-4H2;9-10H,2-8,11-17H2,1H3,(H,19,20)/p-1/b;10-9-/t5-,6-,7-,8+,9-,10-,11+,12+,13-,14-,15+,16+,17-,18+;/m1./s1
